US09284286B2
To a stirred solution of 4-chloro-pyridine-3-carboxylic acid ethyl ester (4.30 g, 23.2 mmol) in dry tetrahydrofuran (45 ml) is added potassium tert-butoxide (3.12 g, 27.9 mmol) portion wise at 0° C., followed by the addition of methyl 3-mercaptopropanoate (3.35 g, 27.9 mmol). The reaction mixture is stirred at RT for 2 h. After completion of the reaction, the solvent is distilled off and the residue is diluted with water (30 ml). The aqueous layer is extracted with EtOAc (3×40 ml). The combined organic layers are washed with water (40 ml), brine (40 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 30% EtOAc/hexane) to get 4-(2-methoxycarbonyl-ethylsulfanyl)-pyridine-3-carboxylic acid ethyl ester (3.0 g, 11.2 mmol, 48%).

reactant | 4-chloro-pyridine-3-carboxylic acid ethyl ester | 23.2 mmol, 4.30 g | C(C)OC(=O)C=1C=NC=CC1Cl | C8H8ClNO2
reactant | potassium tert-butoxide | 27.9 mmol, 3.12 g | CC(C)([O-])C.[K+]
reactant | methyl 3-mercaptopropanoate | 27.9 mmol, 3.35 g | SCCC(=O)OC | C4H8O2S
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 4-(2-methoxycarbonyl-ethylsulfanyl)-pyridine-3-carboxylic acid ethyl ester | 11.2 mmol, 3.0 g, 48% | C(C)OC(=O)C=1C=NC=CC1SCCC(=O)OC | C12H15NO4S
